US07700641B2
Synthesis of 2′-oxo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl trifluoromethanesulfonate
To a mixture of 2′-oxo-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl trifluoromethanesulfonate (0.42 g, 1.10 mmol) and sodium hydroxide (0.07 g, 1.65 mmol) in N,N-dimethylformamide (5.00 mL) was added 2-(bromomethyl)-5-(trifluoromethyl)furan (0.50 g, 2.20 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 16 h and diluted with ethyl acetate (200 mL). After washing with aqueous saturated sodium chloride (2×20.0 mL), the organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/3) to give the title compound (0.47 g, 80%) as a clear oil: 1H NMR (300 MHz, CDCl3) δ 7.34 (t, 1H), 7.18-6.94 (m, 5H), 6.74 (dd, 1H), 6.55 (dd, 1H), 6.40 (d, 1H), 5.09-4.72 (m, 4H); MS (ES+) m/z 534.4 (M+1).

reactant | 2′-oxo-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl trifluoromethanesulfonate | 1.10 mmol, 0.42 g | FC(S(=O)(=O)OC=1C=CC2=C(C1)C1(C(NC3=CC=CC=C13)=O)CO2)(F)F | C16H10F3NO5S
reactant | sodium hydroxide | 1.65 mmol, 0.07 g | [OH-].[Na+]
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | 2.20 mmol, 0.50 g | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2′-oxo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl trifluoromethanesulfonate | 0.47 g, 80% | FC(S(=O)(=O)OC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CC=1OC(=CC1)C(F)(F)F)=O)CO2)(F)F | C22H13F6NO6S
